US07067517B2
4-(1-Ethylpropyl)piperazine-1-carboxylic acid 3-trifluoromethylphenyl ester hydrochloride salt
To a stirred mixture of 1-(1-ethylpropyl)piperazine (175 μl, 1.0 mmol) and dry DCM (10 ml) was added 3-trifluoromethylphenyl chloroformate (250 mg, 1.1 mmol). The mixture was stirred overnight at room temperature and then diluted with DCM (50 ml). The reaction mixture was washed with 1 N NaOH (3×25 ml) and water (2×25 ml). The organic solution was concentrated and the residue was dissolved in a 0.5 N HCl solution (15 ml) and a small portion of acetonitrile. The acidic solution was concentrated and stirred with ethyl acetate (15 ml). The solid was isolated and dried to give 330 mg (86%) of the title compound as a solid.

reactant | 1-(1-ethylpropyl)piperazine | 1.0 mmol, 175 μl | C(C)C(CC)N1CCNCC1 | C9H20N2
reactant | 3-trifluoromethylphenyl chloroformate | 1.1 mmol, 250 mg | ClC(=O)OC1=CC(=CC=C1)C(F)(F)F | C8H4ClF3O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethylpropyl)piperazine-1-carboxylic acid 3-trifluoromethylphenyl ester hydrochloride salt | 330 mg, 86% | Cl.FC(C=1C=C(C=CC1)OC(=O)N1CCN(CC1)C(CC)CC)(F)F | InChI=1S/C17H23F3N2O2.ClH/c1-3-14(4-2)21-8-10-22(11-9-21)16(23)24-15-7-5-6-13(12-15)17(18,19)20;/h5-7,12,14H,3-4,8-11H2,1-2H3;1H
